US07618996B2
Preparation of Intermediate [4-(4-Carbamoyl-3-hydroxy-phenoxy)-3,5-difluoro-benzyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-1e-3)
[4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3,5-difluoro-benzyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-1d-3: 1.0 g) was dissolved in 2.0 mL of a 2 M solution of ammonia in isopropanol. The resulting solution was then treated with 1.5 mL of a saturated aqueous ammonia solution and the resulting mixture heated at 80° C. After 8 hours, the reaction mixture was cooled to ambient temperature and concentrated with a rotary evaporator. The residue was diluted with ethyl acetate and the organic solution was washed twice with water, once with brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel eluting with 50% ethyl acetate in heptane to afford the title compound (I-1e-3).

reactant | [4-(2,2-Dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3,5-difluoro-benzyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C(=C1)F)OC1=CC2=C(C(OC(O2)(C)C)=O)C=C1)F)=O | C27H33F2NO6
reactant | ammonia | N | H3N
reactant | ammonia | 1.5 mL | N | H3N
solvent | isopropanol | C(C)(C)O | C3H8O
product | [4-(4-Carbamoyl-3-hydroxy-phenoxy)-3,5-difluoro-benzyl]-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C(=C1)F)OC1=CC(=C(C=C1)C(N)=O)O)F)=O | C24H30F2N2O5
